US09079866B2
4-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]oxy}pyridine-2-carbonitrile
The title compound was prepared in a manner similar to that described in Example 88 using 4-(2-bromophenoxy)picolinonitrile and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C22H14FN5O, 383.12; m/z found, 384.0 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.50 (d, J=5.7, 1H), 8.40 (d, J=1.3, 2H), 7.61 (dd, J=7.9, 2.0, 2H), 7.53 (dd, J=11.1, 5.0, 2H), 7.48-7.42 (m, 1H), 7.36 (dd, J=12.1, 1.5, 1H), 7.31 (dd, J=11.5, 5.0, 2H), 7.11 (dd, J=5.7, 2.5, 1H), 6.86 (s, 2H).

reactant | 4-(2-bromophenoxy)picolinonitrile | BrC1=C(OC2=CC(=NC=C2)C#N)C=CC=C1 | C12H7BrN2O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 4-{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]oxy}pyridine-2-carbonitrile | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)OC1=CC(=NC=C1)C#N)F | C22H14FN5O
